US08486940B2
(S)-5-(4-(2-(dimethylamino)ethoxy)phenyl)-1-(1H-benzo[d]imidazol-5-yl)imidazolidin-2-one
The compound was synthesized as trifluoroacetate salt starting from trimethyl silyl cyanide (1.88 mL, 20.72 mmol), 5-amino benzimidazole (0.82 g, 6.21 mmol), 4-(3-(dimethylamino)propoxy)benzaldehyde (1.0 g, 5.18 mmol), 10% Pd—C (250 mg), triethylamine (7.5 mL, 51.91 mmol), 1,1′-carbonyldiimidazole (1 g, 6.48 mmol). The product was further purified by prep HPLC using the following conditions: Column: Chiralpak AD-HMobile phase: Hexane: Ethanol (0.1% DEA); Flow rate: 32 mL/min, UV: 210 nm, Diluent: Mobile phase The prep fractions were concentrated in vacuum and partitioned between water and chloroform. The separated organic layer was washed with brine solution. Dried over anhydrous sodium sulphate and concentrated in vacuum to afford 50 mg of the product as brown solid.

reactant | trifluoroacetate | FC(C(=O)[O-])(F)F
reactant | trimethyl silyl cyanide | 20.72 mmol, 1.88 mL | C[Si](C)(C)C#N | C4H9NSi
reactant | 5-amino benzimidazole | 6.21 mmol, 0.82 g | NC1=CC2=C(N=CN2)C=C1 | C7H7N3
reactant | 4-(3-(dimethylamino)propoxy)benzaldehyde | 5.18 mmol, 1.0 g | CN(CCCOC1=CC=C(C=O)C=C1)C | C12H17NO2
reactant | triethylamine | 51.91 mmol, 7.5 mL | C(C)N(CC)CC | C6H15N
reactant | 1,1′-carbonyldiimidazole | 6.48 mmol, 1 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
catalyst | Pd—C | 250 mg | [Pd] | Pd
product | (S)-5-(4-(2-(dimethylamino)ethoxy)phenyl)-1-(1H-benzo[d]imidazol-5-yl)imidazolidin-2-one | 50 mg | CN(CCOC1=CC=C(C=C1)[C@H]1CNC(N1C1=CC2=C(NC=N2)C=C1)=O)C | C20H23N5O2
